US07728016B2
1-Azido-5-chloro-2,4-dimethoxy-benzene
To a solution of concentrated H2SO4 (5 mL) in water (15 mL), 5-chloro-2,4-dimethoxy-phenylamine (3 g, 16 mmol) was added, resulting a deep purple suspension. More water (15 mL) was then added and the mixture was cooled and stirred vigorously at 0° C. in an ice-salt bath. A solution of sodium nitrite (1.2 g, 17.4 mmol) in water (5 mL) was added slowly and a brown solution was obtained. This solution was stirred at this temperature for an hour. After that, a solution of sodium azide (1.2 g, 18.5 mmol) in water (10 mL) was followed and the solution turned grey. This solution was then stirred for an hour. The grey precipitations (1.0 g, 30%) formed were collected, washed with water and dried. Yellow solids formed in the filtrate were also collected, washed and dried. The second crop (1.47 g, 43%) turned to light grey quickly.

reactant | H2SO4 | 5 mL | OS(=O)(=O)O | H2O4S
reactant | 5-chloro-2,4-dimethoxy-phenylamine | 16 mmol, 3 g | ClC=1C(=CC(=C(C1)N)OC)OC | C8H10ClNO2
reactant | sodium nitrite | 17.4 mmol, 1.2 g | N(=O)[O-].[Na+]
reactant | sodium azide | 18.5 mmol, 1.2 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 15 mL | O | H2O
solvent | water | 5 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 1-Azido-5-chloro-2,4-dimethoxy-benzene | N(=[N+]=[N-])C1=C(C=C(C(=C1)Cl)OC)OC | C8H8ClN3O2
